US09062004B2
Synthesis of t-Butyl N′-(3,3,5,5-Tetramethylcyclohexyl)hydrazine carboxylate
t-Butyl N′-(3,3,5,5-Tetramethylcyclohexylidene)hydrazine carboxylate (10.0 g, 0.0373 moles) was dissolved in ethanol (600 ml) and 5% Platinum on carbon (0.4 g) was added in water (2 mL). Stirred overnight under a hydrogen atmosphere (balloon). Filtered through HyFlo to remove the catalyst and evaporated the solvents to give a grey solid. Triturated with water and filtered off the grey solid. Dried in a desiccator to give the product as a grey solid (8.4 g, 83%). 1H NMR (300 MHz DMSO-d6) 8.1 (brm, 1H), 4.1 (brm, 1H), 2.95 (m, 1H), 1.45 (m, 2H), 1.35 (s, 9H), 1.15 (m, 1H), 0.95 (m, 1H), 0.95 (s, 6H), 0.9 (s, 6H).

reactant | t-Butyl N′-(3,3,5,5-Tetramethylcyclohexylidene)hydrazine carboxylate | 0.0373 moles, 10.0 g | CC1(CC(CC(C1)(C)C)=NNC(=O)OC(C)(C)C)C | C15H28N2O2
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | Platinum on carbon | 0.4 g | [Pt] | Pt
solvent | water | 2 mL | O | H2O
product | t-Butyl N′-(3,3,5,5-Tetramethylcyclohexyl)hydrazine carboxylate | 8.4 g, 83% | CC1(CC(CC(C1)(C)C)NNC(=O)OC(C)(C)C)C | C15H30N2O2
